US07399774B2
6-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-1-yloxy)-nicotinamide
Using a method similar to Intermediate 1, using 5-hydroxy-1-tetralone (2.68 g, 16.5 mmol), 6-chloronicotinamide (2.34 g, 15.0 mmol) and K2CO3 (3.11 g, 22.5 mmol) gives the title compound (2.34 g) as a yellow solid. Mass spectrum (ion spray): m/z=283 (M+1); 1HNMR (DMSO-d6): 8.55 (s, 1H), 8.27 (d, 1H), 8.02 (s, 1H), 7.80 (m, 1H), 7.48 (s, 1H), 7.43-7.37 (m, 1H), 7.14 (d, 1H), 2.66 (t, 2H), 2.58 (t, 2H), 1.96 (m, 2H).

reactant | 5-hydroxy-1-tetralone | 16.5 mmol, 2.68 g | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 6-chloronicotinamide | 15.0 mmol, 2.34 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 22.5 mmol, 3.11 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-1-yloxy)-nicotinamide | 2.34 g | O=C1C=2C=CC=C(C2CCC1)OC1=NC=C(C(=O)N)C=C1 | C16H14N2O3
